US07071358B2
Step B. N-Methyl-N-(4-methoxybenzyl)-4-bromo-2-methylaniline
To a solution of 2.7 g (13.57 mmol) of N-methyl-4-bromo-2-methylaniline in 20 ml of DMF at room temperature was added 608 mg (15.2 mmol) of NaH and the mixture was stirred at room temperature for 0.5 h. After this time, 2.05 ml (15.1 mmol) of 4-methoxybenzyl chloride was added and the reaction mixture was heated to 60° C. for 12 hours. After this time, the reaction mixture was allowed to cool to room temperature and was quenched by the addition of a saturated aqueous solution of ammonium chloride and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:EtOAc, 20:1) to give the title compound. 1H-NMR (CDCl3) δ 2.41 (s, 3H), 2.58 (s, 3H), 3.84 (s, 3H), 3.98 (s, 2H), 6.89–6.94 (m, 3H), 7.29–7.36 (m, 4H).

reactant | N-methyl-4-bromo-2-methylaniline | 13.57 mmol, 2.7 g | CNC1=C(C=C(C=C1)Br)C | C8H10BrN
reactant | NaH | 15.2 mmol, 608 mg | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 15.1 mmol, 2.05 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-Methyl-N-(4-methoxybenzyl)-4-bromo-2-methylaniline | CN(C1=C(C=C(C=C1)Br)C)CC1=CC=C(C=C1)OC | C16H18BrNO
